US05886014
5-[4-(5-Hydroxy-1,4,6,7-tetramethylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-237)
A mixture of 1.0 g of 4-acetoxy-N-methyl-3,5,6-trimethyl-1,2-phenylenediamine (prepared as described in Preparation 19), 2.7 g of 5-(4-methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione (prepared as described in Preparation 21), 5 ml of 1,4-dioxane and 25 ml of concentrated aqueous hydrochloric acid was heated under reflux for 2 days. At the end of this time, the reaction mixture was added to ice-water and the resulting mixture was neutralized by the addition of sodium hydrogencarbonate. It was then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, after which the residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent. Fractions containing the title compound were collected and the solvent was removed by distillation under reduced pressure, to give a red residual oil. 150 ml of diethyl ether were added to the oil, and the mixture was agitated ultrasonically for 5 minutes. The precipitate which separated out was collected by filtration and dissolved in 300 ml of tetrahydrofuran. The resulting solution was concentrated to a volume of between about 10 ml and 20 ml by evaporation under reduced pressure. 200 ml of ethyl acetate were added to the concentrate, and the mixture was agitated ultrasonically for 20 minutes. The precipitate which separated out was collected by filtration, to give 0.52 g of the title compound, melting at 240°-244° C. and having an Rf value=0.44 (on thin layer chromatography on silica gel; developing solvent: ethyl acetate).

reactant | 4-acetoxy-N-methyl-3,5,6-trimethyl-1,2-phenylenediamine | 1.0 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)NC)N)C | C12H18N2O2
reactant | 5-(4-methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione | 2.7 g | COC(=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO5S
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(5-Hydroxy-1,4,6,7-tetramethylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 0.52 g | OC1=C(C2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C(=C1C)C)C | C22H23N3O4S
